* F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\plot\RC sim.asc
V1 N001 0 PWL file="F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\dataLogs\filelive.log.pwl"
C1 N002 0 10µ
R1 N002 N001 56k
.tran 0 566.5 0 0.1
.backanno
.end
